US05563141
A mixture of 4-chloropyridine-3-carboxaldehyde (10 g, prepared according to the method described in J. Het. Chem, 25, 81), pyrrolidine (25 ml) and ethanol (100 ml) was heated under reflux for 5 hours, then concentrated. The residue was purified by flash column chromatography (grade II alumina) eluting first with dichloromethane and then with methanol/dichloromethane (1:200) to give 3-[[4-(pyrrolidin-1-yl)pyridin-3-yl]methylidene]-1-pyrroline (900 mg) as a white solid. NMR (d6DMSO): δ1.8(4H,m); 2.5(2H,m); 3.3(4H,m); 3.95(2H,m); 6.6(1H,d); 7.0(1H,t), 7.9(1H,t), 8.0(1H,d); 8.15(1H,s); m/e 228(M+H)+ ; calculated for C14H17N3 : C, 74.0; H, 7.5; N, 18.5; found C, 74.1; H, 7.7; N, 18.4%.

reactant | 4-chloropyridine-3-carboxaldehyde | ClC1=C(C=NC=C1)C=O | C6H4ClNO
reactant | pyrrolidine | 25 ml | N1CCCC1 | C4H9N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-[[4-(pyrrolidin-1-yl)pyridin-3-yl]methylidene]-1-pyrroline | 900 mg | N1(CCCC1)C1=C(C=NC=C1)C=C1C=NCC1 | C14H17N3
